US07381719B2
2,6-Difluoro-4-(2-nitro-vinyl)-phenol
3,5-Difluoro-4-hydroxybenzaldehyde (2.27 g, 14.4 mmol), nitromethane (4.7 mL, 86.4 mmol) and ammonium acetate (4.4 g, 57.6 mmol) were dissolved in acetic acid (22 mL) and the reaction mixture was heated at 110° C. for 1 hour 30 min. The reaction was concentrated under reduced pressure and the residue partitioned between ether and water. The layers were separated and the organic layer was dried with Na2SO4. The organic mixture was filtered and the filtrate concentrated under reduced pressure to afford a crude product. The crude product was purified by flash column chromatography (eluent: EtOAc/hexane 22/78) to afford the title compound (2.05 g, yield: 71%). Electrospray MS M−1 ion=200. 1H-NMR (CDCl3, 200 MHz): 7.84 (d, 1H, J=13.7 Hz), 7.45 (d, 1H, J=13.7 Hz), 7.19-6.99 (m, 2H).

reactant | 3,5-Difluoro-4-hydroxybenzaldehyde | 14.4 mmol, 2.27 g | FC=1C=C(C=O)C=C(C1O)F | C7H4F2O2
reactant | nitromethane | 86.4 mmol, 4.7 mL | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 57.6 mmol, 4.4 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 22 mL | C(C)(=O)O | C2H4O2
product | 2,6-Difluoro-4-(2-nitro-vinyl)-phenol | 2.05 g, yield: 71% | FC1=C(C(=CC(=C1)C=C[N+](=O)[O-])F)O | C8H5F2NO3
